### PR TITLE
[Merged by Bors] - fix: Incorrect integral curve existence theorem for vector fields

### PR DESCRIPTION
**Pull request by winstonyin**
`exists_isPicardLindelof_const_of_contDiffOn_nhds` had unnecessarily specific assumptions.

`ContDiffOn` assumption is replaced with `ContDiffAt`.

`ProperSpace E` assumption is removed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 1]
```diff
@@ -391,79 +391,50 @@ theorem IsPicardLindelof.exists_forall_hasDerivWithinAt_Icc_eq [CompleteSpace E]
...
-      norm_le := fun t _ x hx => hC ⟨x, hx, rfl⟩
+    { ht₀ := Real.closedBall_eq_Icc ▸ mem_closedBall_self hε0.le
+      hR := le_of_lt <| half_pos <| lt_min hR₁ hR₂
+      lipschitz := fun _ _ => hlip.mono <| Subset.trans
+        (closedBall_subset_ball <| half_lt_self <| lt_min hR₁ hR₂)
+        (Subset.trans (Metric.ball_subset_ball <| min_le_left _ _) hball)
+      cont := fun _ _ => continuousOn_const
+      norm_le := fun _ _ x hx => hbdd' x <| mem_of_mem_of_subset hx <| Subset.trans
+        (closedBall_subset_ball <| half_lt_self <| lt_min hR₁ hR₂)
+        (Subset.trans (Metric.ball_subset_ball <| min_le_right _ _) (subset_refl _))
```
Comment (mcdoll) [inline Mathlib/Analysis/ODE/PicardLindelof.lean:418]:
```suggestion
        ((Metric.ball_subset_ball <| min_le_left _ _).trans hball)
      cont := fun _ _ => continuousOn_const
      norm_le := fun _ _ x hx => hbdd' x <| mem_of_mem_of_subset hx <|
        (closedBall_subset_ball <| half_lt_self <| lt_min hR₁ hR₂).trans
        ((Metric.ball_subset_ball <| min_le_right _ _).trans (subset_refl _))
```

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 2]
```diff
@@ -391,79 +391,50 @@ theorem IsPicardLindelof.exists_forall_hasDerivWithinAt_Icc_eq [CompleteSpace E]
...
+  refine' ⟨ε, hε0, L, min R₁ R₂ / 2, 1 + ‖v x₀‖, _⟩
   exact
-    { ht₀ := by rw [← Real.closedBall_eq_Icc]; exact mem_closedBall_self hε0.le
-      hR := (half_pos hr).le
-      lipschitz := fun t _ => hlip.mono
-        (subset_inter_iff.mp (Subset.trans (closedBall_subset_ball (half_lt_self hr)) hball)).2
-      cont := fun x _ => continuousOn_const
-      norm_le := fun t _ x hx => hC ⟨x, hx, rfl⟩
+    { ht₀ := Real.closedBall_eq_Icc ▸ mem_closedBall_self hε0.le
+      hR := le_of_lt <| half_pos <| lt_min hR₁ hR₂
```
Comment (mcdoll) [inline Mathlib/Analysis/ODE/PicardLindelof.lean:411]:
```suggestion
      hR := by positivity
```

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 3]
```diff
@@ -391,79 +391,50 @@ theorem IsPicardLindelof.exists_forall_hasDerivWithinAt_Icc_eq [CompleteSpace E]
...
+      lipschitz := fun _ _ => hlip.mono <| Subset.trans
+        (closedBall_subset_ball <| half_lt_self <| lt_min hR₁ hR₂)
+        (Subset.trans (Metric.ball_subset_ball <| min_le_left _ _) hball)
```
Comment (mcdoll) [inline Mathlib/Analysis/ODE/PicardLindelof.lean:414]:
```suggestion
      lipschitz := fun _ _ => hlip.mono <|
        (closedBall_subset_ball <| half_lt_self <| lt_min hR₁ hR₂).trans
        (Subset.trans (Metric.ball_subset_ball <| min_le_left _ _) hball)
```

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 4]
```diff
@@ -391,79 +391,50 @@ theorem IsPicardLindelof.exists_forall_hasDerivWithinAt_Icc_eq [CompleteSpace E]
...
+      cont := fun _ _ => continuousOn_const
+      norm_le := fun _ _ x hx => hbdd' x <| mem_of_mem_of_subset hx <| Subset.trans
+        (closedBall_subset_ball <| half_lt_self <| lt_min hR₁ hR₂)
+        (Subset.trans (Metric.ball_subset_ball <| min_le_right _ _) (subset_refl _))
       C_mul_le_R := by
-        rw [add_sub_cancel', sub_sub_cancel, max_self, mul_ite, mul_one]
-        split_ifs with h
-        · rwa [← h] at hr'
-        · exact (mul_div_cancel' (r / 2) h).le }
-#align exists_is_picard_lindelof_const_of_cont_diff_on_nhds exists_isPicardLindelof_const_of_contDiffOn_nhds
```
Comment (mcdoll) [inline Mathlib/Analysis/ODE/PicardLindelof.lean:433]: You should not delete #aligns (same below)

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 5]
```diff
@@ -391,79 +391,50 @@ theorem IsPicardLindelof.exists_forall_hasDerivWithinAt_Icc_eq [CompleteSpace E]
...
+        rw [add_sub_cancel', sub_sub_cancel, max_self, hε, mul_div_left_comm, div_self, mul_one]
+        exact ne_of_gt <| add_pos_of_pos_of_nonneg zero_lt_one <| norm_nonneg _ }
+
+variable [CompleteSpace E]
+
+/-- A time-independent, continuously differentiable ODE admits a solution in some open interval. -/
+theorem exists_forall_hasDerivAt_Ioo_eq_of_contDiffAt (hv : ContDiffAt ℝ 1 v x₀) :
     ∃ ε > (0 : ℝ),
-      ∃ f : ℝ → E, f t₀ = x₀ ∧ ∀ t ∈ Ioo (t₀ - ε) (t₀ + ε), f t ∈ s ∧ HasDerivAt f (v (f t)) t := by
-  obtain ⟨ε, hε, L, R, C, hpl⟩ := exists_isPicardLindelof_const_of_contDiffOn_nhds t₀ x₀ hv hs
```
Comment (mcdoll) [inline Mathlib/Analysis/ODE/PicardLindelof.lean:441]: I might be very stupid here, but it seems to me that your version is less strong in the sense that you don't have control over the image of `f`?

File: Mathlib/Analysis/ODE/PicardLindelof.lean (hunk 4 above)
Comment (winstonyin) [reply Mathlib/Analysis/ODE/PicardLindelof.lean:433]: What if the theorem name and statement have changed?

File: Mathlib/Analysis/ODE/PicardLindelof.lean (hunk 5 above)
Comment (winstonyin) [reply Mathlib/Analysis/ODE/PicardLindelof.lean:441]: I think it's my original statement of the theorem that was a bit stupid. Since `f` is differentiable at `t₀`, you can just shrink `ε` until `f t ∈ s` for any `s ∈ nhds x₀`.

File: Mathlib/Analysis/ODE/PicardLindelof.lean (hunk 4 above)
Comment (fpvandoorn) [reply Mathlib/Analysis/ODE/PicardLindelof.lean:433]: I would still keep the `#align`.

**Comment by fpvandoorn** [comment]
The new statements are a lot nicer!

Please add back the `#align`.

bors d+
